US04757078
A. N-(Tetrahydropyran-2-yloxy)benzamide
To a solution of 1.00 g (8.55 mmol) of O-tetrahydropyran-2-ylhydroxylamine (prepared as described in U.S. Pat. No. 4,607,053, Example 2, Part A) and 1.4 ml (10 mmol) of sieve-dried triethylamine in 15 ml of dry CH2Cl2 cooled to -20 was added a solution of 1.50 g (10.7 mmol) of benzoyl chloride in 5 ml of CH2Cl2 over 10 minutes. The reaction mixture was stirred for 1 hour then diluted with 15 ml of ethyl acetate. The resulting slurry was filtered and the filtrate concentrated in vacuo to give a solid. Recrystallization (EtOAc/petroleum ether) of the solid afforded 1.45 g (77%) of title compound as white crystals, m.p. 130°-134°.

reactant | O-tetrahydropyran-2-ylhydroxylamine | 8.55 mmol, 1.00 g | O1C(CCCC1)ON | C5H11NO2
reactant | triethylamine | 10 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 10.7 mmol, 1.50 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | N-(Tetrahydropyran-2-yloxy)benzamide | 1.45 g, 77% | O1C(CCCC1)ONC(C1=CC=CC=C1)=O | C12H15NO3
